US08202866B2
2-(4-Bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid ethyl ester
To a solution of diethyl-pyrrolidin-3-yl-amine (0.685 g, 6 mmol) in THF (10 mL) was added 2-(4-bromo-phenyl)-acrylic acid ethyl ester (1.27 g, 5 mmol) dropwise in THF at 0 degrees Celsius. Then the mixture was stirred at room temperature for 1 h and concentrated in vacuo. The residue was dissolved in EtOAc (30 mL), washed with water (20 mL×2), brine, dried over Na2SO4, filtered and evaporated. The obtained oil was used directly without further purification. MS: calc'd 397 (MH+), exp 397 (MH+).

reactant | diethyl-pyrrolidin-3-yl-amine | 6 mmol, 0.685 g | C(C)N(C1CNCC1)CC | C8H18N2
reactant | 2-(4-bromo-phenyl)-acrylic acid ethyl ester | 5 mmol, 1.27 g | C(C)OC(C(=C)C1=CC=C(C=C1)Br)=O | C11H11BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid ethyl ester | C(C)OC(C(CN1CC(CC1)N(CC)CC)C1=CC=C(C=C1)Br)=O | C19H29BrN2O2
